US08871756B2
tert-Butyl (4S)-2,2-dimethyl-4-{2-[2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]ethyl}-1,3-oxazolidine-3-carboxylate
The mixture of tert-butyl (4S)-2,2-dimethyl-4-{(E)-2-[2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]ethenyl}-1,3-oxazolidine-3-carboxylate (380 mg, 0.76 mmol), palladium hydroxide (20% on carbon, 50 mg) and ethanol (15 mL) was stirred at room temperature for 4 hours under hydrogen. The solid was filtered by a pad of silica gel and the filtrate was concentrated in vacuo to give 340 mg of product as a white solid (yield was 89%). MS obsd. (ESI+) [(M+H)+] 502.

reactant | tert-butyl (4S)-2,2-dimethyl-4-{(E)-2-[2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]ethenyl}-1,3-oxazolidine-3-carboxylate | 0.76 mmol, 380 mg | CC1(OC[C@@H](N1C(=O)OC(C)(C)C)\C=C\C1=CC(=NC2=CC=CC=C12)N1CC2=C(CCC1)C=CC=C2)C | C31H37N3O3
catalyst | palladium hydroxide | 50 mg | [OH-].[Pd+2].[OH-]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | tert-Butyl (4S)-2,2-dimethyl-4-{2-[2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]ethyl}-1,3-oxazolidine-3-carboxylate | 340 mg, yield was 89% | CC1(OC[C@@H](N1C(=O)OC(C)(C)C)CCC1=CC(=NC2=CC=CC=C12)N1CC2=C(CCC1)C=CC=C2)C | C31H39N3O3
